US08012591B2
Titanium acetylacetonate 2 g.
1 g of acetylacetone and 1 g of tetraethyl orthotitanate were added to the hydrophilic sol-gel liquid to prepare it,

reactant | acetylacetone | 1 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | tetraethyl orthotitanate | 1 g | CCO.CCO.CCO.CCO.[Ti]
product | Titanium acetylacetonate | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Ti] | InChI=1S/4C5H8O2.Ti/c4*1-4(6)3-5(2)7;/h4*3,6H,1-2H3;/b4*4-3-;
